US08541588B2
4-chloro-2-[3-nitro-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazol-4-yl]phenol
(5-chloro-2-hydroxyphenyl)boronic acid (16.10 g, 93.38 mmol) and 4-bromo-3-nitro-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazole or 4-bromo-5-nitro-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazole (Preparation 869, 22.95 g, 83.12 mmol) in 1,2-dimethoxyethane (300 mL, 3000 mmol) and 2 M of potassium carbonate in water (116 mL, 2.10E2 mmol) was added tetrakis(triphenylphosphine)palladium(0) (5.0 g, 4.3 mmol). The solution was sparged 3 times with Ar and heated at 80° C. for 4 hours. Additional (5-chloro-2-hydroxyphenyl)boronic acid (2.866 g, 16.62 mmol) was added to the reaction. The reaction was heated at 80° C. for another 18 hours. The cooled reaction was poured into a separatory funnel and the phases separated. The aqueous phase was washed two times with dichloromethane (250 mL). The combined organic phase was washed with brine then dried over anhydrous magnesium sulfate and treated with activated carbon. The mixture was filtered through diatomacious earth and the filtrate evaporated to a residue. The crude product was separated into two portions and each purified by column chromatography (80 g silica gel column, hexanes to 20% ethyl acetate gradient elution). Product fractions were combined and evaporated to give a thick oil which formed a waxy solid upon standing. The solid was triturated with hexanes and filtered to give 17.71 g of tan powder after vacuum drying.

reactant | (5-chloro-2-hydroxyphenyl)boronic acid | 93.38 mmol, 16.10 g | ClC=1C=CC(=C(C1)B(O)O)O | C6H6BClO3
reactant | 4-bromo-3-nitro-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazole | BrC=1C(=NN(C1)C1OCCCC1)[N+](=O)[O-] | C8H10BrN3O3
reactant | 4-bromo-5-nitro-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazole | 83.12 mmol, 22.95 g | BrC=1C=NN(C1[N+](=O)[O-])C1OCCCC1 | C8H10BrN3O3
reactant | 1,2-dimethoxyethane | 3000 mmol, 300 mL | COCCOC | C4H10O2
reactant | water | 2.10E2 mmol, 116 mL | O | H2O
reactant | (5-chloro-2-hydroxyphenyl)boronic acid | 16.62 mmol, 2.866 g | ClC=1C=CC(=C(C1)B(O)O)O | C6H6BClO3
solvent | potassium carbonate | 2 M | C([O-])([O-])=O.[K+].[K+]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 4.3 mmol, 5.0 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-chloro-2-[3-nitro-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazol-4-yl]phenol | 17.71 g | ClC1=CC(=C(C=C1)O)C=1C(=NN(C1)C1OCCCC1)[N+](=O)[O-] | C14H14ClN3O4
